US07432275B2
3. 3-(5-Cyano-3′-trifluoromethyl-[2,2′]bipyridinyl-6-yl)-2-oxo-propionic acid ethyl ester
Dissolve 6-methyl-3′-trifluoromethyl-[2,2′]bipyridinyl-5-carbonitrile (150 mg, 0.570 mmol) and diethyl oxalate (150 mg, 1.03 mmol) in a solution of EtOH (2 mL) and 17% NaOEt in EtOH (0.6 mL, 1.71 mmol). Warm the mixture to 50° C. and stir overnight. Pour the mixture onto ice water (50 mL) and acidify with 3 N HCl. Extract with EtOAc (3×50 mL). Dry the combined organic extracts over Na2SO4 and remove the solvent under reduced pressure. Purify the crude product using silica gel chromatography eluting with EtOAc/hexane (1:1) to yield the title compound. MS 364.11 (M+1).

reactant | 6-methyl-3′-trifluoromethyl-[2,2′]bipyridinyl-5-carbonitrile | 0.570 mmol, 150 mg | CC1=C(C=CC(=N1)C1=NC=CC=C1C(F)(F)F)C#N | C13H8F3N3
reactant | diethyl oxalate | 1.03 mmol, 150 mg | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | HCl | 3 N | Cl | ClH
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | NaOEt | CC[O-].[Na+]
solvent | EtOH | 1.71 mmol, 0.6 mL | CCO | C2H6O
product | 3-(5-Cyano-3′-trifluoromethyl-[2,2′]bipyridinyl-6-yl)-2-oxo-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=CC(=N1)C1=NC=CC=C1C(F)(F)F)C#N)=O)=O | C17H12F3N3O3
